US06949542B2
[2-Amino-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-nitro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example A13) by hydrogenation with 5% Pt/C according to the general procedure J (method a). Obtained as a light brown solid (13.157 g).

reactant | [2-nitro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC(F)(F)F)[N+](=O)[O-])=O | C13H15F3N2O5
catalyst | Pt/C | [Pt] | Pt
product | [2-Amino-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC(F)(F)F)N)=O | C13H17F3N2O3
